US04578392
2-Isopropyl-3-cyclopentylcarbonylpyrazolo[1,5-a]pyridine
A mixture of 5 g of 2-isopropylpyrazolo[1,5-a]pyridine and 5 ml of cyclopentylcarbonyl chloride was heated at 160° C. for 4.5 hours and, after cooling, poured into aqueous potassium hydroxide solution. The mixture was extracted with dichloromethane and the organic layer was dried over anhydrous sodium sulfate, concentrated to dryness. The residue was applied to a column of silica gel, eluting with ethyl acetate-hexane(1:9), to give 2.1 g of the title compound as colorless crystals, mp 106°-110° C.

reactant | 2-isopropylpyrazolo[1,5-a]pyridine | 5 g | C(C)(C)C1=NN2C(C=CC=C2)=C1 | C10H12N2
reactant | cyclopentylcarbonyl chloride | 5 ml | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | potassium hydroxide | [OH-].[K+]
product | 2-Isopropyl-3-cyclopentylcarbonylpyrazolo[1,5-a]pyridine | 2.1 g | C(C)(C)C1=NN2C(C=CC=C2)=C1C(=O)C1CCCC1 | C16H20N2O
